US04564386
To a solution of N-methyl-2,4-dimethyl-5-(trifluoromethanesulfonamido)benzenesulfonamide (2 g) and triethylamine (0.7 g) in tetrahydrofuran (20 ml), propionyl chloride (0.45 g) was added, and the resultant mixture was allowed to stand at room temperature overnight. The reaction mixture was concentrated, admixed with 5% hydrochloric acid and extracted with chloroform. The extract was concentrated to give an oily substance, which was purified by silica gel chromatography. Recrystallization from a mixture of toluene and hexane gave 1.17 g of N-methyl-2,4-dimethyl-5-(N-propionyl-N-trifluoromethanesulfonylamino)benzenesulfonamide (Compound No. 16). M.P., 101°-103° C.

reactant | N-methyl-2,4-dimethyl-5-(trifluoromethanesulfonamido)benzenesulfonamide | 2 g | CNS(=O)(=O)C1=C(C=C(C(=C1)NS(=O)(=O)C(F)(F)F)C)C | C10H13F3N2O4S2
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.45 g | C(CC)(=O)Cl | C3H5ClO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-methyl-2,4-dimethyl-5-(N-propionyl-N-trifluoromethanesulfonylamino)benzenesulfonamide | 1.17 g | CNS(=O)(=O)C1=C(C=C(C(=C1)N(S(=O)(=O)C(F)(F)F)C(CC)=O)C)C | C13H17F3N2O5S2
